US07989460B2
A mixture of 7-{2-[4-(chloroacetyl)piperazin-1-yl]ethoxy}-6-methoxy-4-[(2-methyl-1H-indol-5-yl)oxy]quinazoline (0.130 g), pyrrolidine (0.04 ml), potassium iodide (0.01 g) and DMF (3.5 ml) was stirred and heated to 80° C. for 1 hour. The mixture was cooled to ambient temperature, the solvent evaporated under vacuum and the residue was purified by column chromatography on silica using increasingly polar solvent mixtures, starting with dichloromethane and ending with dichloromethane/methanol saturated with ammonia (3.5M) (95/5). Evaporation of the solvents gave a foam, which was triturated under ether to give 6-methoxy-4-[(2-methyl-1H-indol-5-yl)oxy]-7-{2-[4-(pyrrolidin-1-ylacetyl)piperazin-1-yl]ethoxy}quinazoline (0.09 g) as a pale yellow solid which was collected by filtration and dried under vacuum.

reactant | 7-{2-[4-(chloroacetyl)piperazin-1-yl]ethoxy}-6-methoxy-4-[(2-methyl-1H-indol-5-yl)oxy]quinazoline | 0.130 g | ClCC(=O)N1CCN(CC1)CCOC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=C(NC2=CC1)C)OC | C26H28ClN5O4
reactant | pyrrolidine | 0.04 ml | N1CCCC1 | C4H9N
reactant | potassium iodide | 0.01 g | [I-].[K+]
solvent | DMF | 3.5 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-4-[(2-methyl-1H-indol-5-yl)oxy]-7-{2-[4-(pyrrolidin-1-ylacetyl)piperazin-1-yl]ethoxy}quinazoline | 0.09 g | COC=1C=C2C(=NC=NC2=CC1OCCN1CCN(CC1)C(CN1CCCC1)=O)OC=1C=C2C=C(NC2=CC1)C | C30H36N6O4
